US07094769B2
Benzyl 2-[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]ethylcarbamate
Prepared from benzyl 2-aminoethylcarbamate hydrochloride and N-[2-(1-piperidinyl)ethyl]-1H-imidazole-1-carboxamide (Preparation 18) by a similar procedure to Preparation 50. The title compound was obtained as a yellow oil.

reactant | benzyl 2-aminoethylcarbamate hydrochloride | Cl.NCCNC(OCC1=CC=CC=C1)=O
reactant | N-[2-(1-piperidinyl)ethyl]-1H-imidazole-1-carboxamide | N1(CCCCC1)CCNC(=O)N1C=NC=C1 | C11H18N4O
product | Benzyl 2-[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]ethylcarbamate | N1(CCCCC1)CCNC(=O)NCCNC(OCC1=CC=CC=C1)=O | C18H28N4O3
